US07696231B2
a) Preparation of methyl 4-{[3-(1,3-benzodioxol-5-yl)propanoyl]amino}benzoate (Compound C of Scheme 2)
To a solution of 3-(3,4-methylenedioxyphenyl)-propionic acid (501 mg, 2.58 mmol) in anhydrous THF (10 mL) were added N-methylmorpholine (0.28 mL, 2.58 mmol) and isobutylchloroformate (0.33 mL, 2.58 mmol) at 0° C. After 30 min, at 0° C., a solution of methyl 4-aminobenzoate (390 mg, 2.58 mmol) in anhydrous THF (2 mL) was added to the reaction mixture. After 30 min the temperature was allowed to warm up to rt and stir for 24 hrs. After extraction with EtOAc (100 mL), washing with HCl (0.1N, 50 mL) and a saturated aqueous solution of NaHCO3 (50 mL), the organic layer was dryed over sodium sulfate and evaporated under vacuo to give a solid. The residue was taken up in Et2O, filtrated and washed with Et2O gave the title compound as a white solid (62%) in a 99.4% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 3-(3,4-methylenedioxyphenyl)-propionic acid | 2.58 mmol, 501 mg | C1OC=2C=C(C=CC2O1)CCC(=O)O | C10H10O4
reactant | N-methylmorpholine | 2.58 mmol, 0.28 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 2.58 mmol, 0.33 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | methyl 4-aminobenzoate | 2.58 mmol, 390 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | methyl 4-{[3-(1,3-benzodioxol-5-yl)propanoyl]amino}benzoate | 62% | O1COC2=C1C=CC(=C2)CCC(=O)NC2=CC=C(C(=O)OC)C=C2 | C18H17NO5
